subckt oai311_x1 A1 A2 B1 B2 C X VDD VSS
OAI311OR0_PA0 (pmid1 A1 VDD VDD) pmos w=2u l=100n
OAI311OR0_PB0 (pmid2 A2 pmid1 VDD) pmos w=2u l=100n
OAI311OR0_PC0 (oai311_or_n B1 pmid2 VDD) pmos w=2u l=100n
OAI311OR0_NA0 (oai311_or_n A1 VSS VSS) nmos w=1u l=100n
OAI311OR0_NB0 (oai311_or_n A2 VSS VSS) nmos w=1u l=100n
OAI311OR0_NC0 (oai311_or_n B1 VSS VSS) nmos w=1u l=100n
OAI311ORI0_P0 (oai311_or oai311_or_n VDD VDD) pmos w=2u l=100n
OAI311ORI0_N0 (oai311_or oai311_or_n VSS VSS) nmos w=1u l=100n
OAI311N30_PA0 (X oai311_or VDD VDD) pmos w=2u l=100n
OAI311N30_PB0 (X B2 VDD VDD) pmos w=2u l=100n
OAI311N30_PC0 (X C VDD VDD) pmos w=2u l=100n
OAI311N30_NC0 (X C nmid2 VSS) nmos w=1u l=100n
OAI311N30_NB0 (nmid2 B2 nmid1 VSS) nmos w=1u l=100n
OAI311N30_NA0 (nmid1 oai311_or VSS VSS) nmos w=1u l=100n
ends oai311_x1
